US07026326B2
5-(3-Bromo-phenyl)-2-[2-(isopropylamino-methyl)-pyrrolidin-1-yl]-3-methyl-6-pyridin-4-yl-3H-pyrimidin-4-one
To a 100 mL RBF, was added (R)-isopropyl-pyrrolidin-2-ylmethyl-amine (0.78 g, 3.6 mmol), and 50 mL dichloromethane at 0° C. under nitrogen. 2.1 mL diisopropylethylamine (12 mmol) was added drop wise, and stirred for 10 min. 5-(3-Bromo-phenyl)-2-chloro-3-methyl-6-pyridin-4-yl-3H-pyrimidin-4-one (1.13 g, 3 mmol) was added in one portion. The mixture was stirred at 0° C. to rt for 12 h. The mixture was diluted with 100 mL dichloromethane, washed with sat. NaHCO3 and brine. After purified by flash chromatography, the title compound was yielded in 1.3 g as pale yellow solid. MS (ES+): 482 (M+H)+.

reactant | (R)-isopropyl-pyrrolidin-2-ylmethyl-amine | 3.6 mmol, 0.78 g | C(C)(C)NC[C@@H]1NCCC1 | C8H18N2
reactant | diisopropylethylamine | 12 mmol, 2.1 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 5-(3-Bromo-phenyl)-2-chloro-3-methyl-6-pyridin-4-yl-3H-pyrimidin-4-one | 3 mmol, 1.13 g | BrC=1C=C(C=CC1)C=1C(N(C(=NC1C1=CC=NC=C1)Cl)C)=O | C16H11BrClN3O
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 5-(3-Bromo-phenyl)-2-[2-(isopropylamino-methyl)-pyrrolidin-1-yl]-3-methyl-6-pyridin-4-yl-3H-pyrimidin-4-one | BrC=1C=C(C=CC1)C=1C(N(C(=NC1C1=CC=NC=C1)N1C(CCC1)CNC(C)C)C)=O | C24H28BrN5O
